US04948796
2.40 g of sodium hydride (purity: 60%) was suspended in 60 ml of tetrahydrofuran. To the suspension was dropwise added 13.5 g of ethyl diethylphosphonoacetate with ice-cooling. The mixture was stirred for 30 minutes at room temperature. To the resulting reaction mixture was dropwise added a solution of 9.06 g of 4-methoxy-3-nitrobenzaldehyde dissolved in 30 ml of tetrahydrofuran, with ice-cooling. The mixture was stirred for 30 minutes at the same temperature. To the reaction mixture was added 100 ml of ethyl acetate and 50 ml of water, and the organic layer was separated. The organic layer was washed with water and a saturated aqueous sodium chloride solution in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure to obtain ethyl (E)-3-(4-methoxy-3-nitrophenyl)acrylate.

reactant | sodium hydride | 2.40 g | [H-].[Na+]
reactant | ethyl diethylphosphonoacetate | 13.5 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | 4-methoxy-3-nitrobenzaldehyde | 9.06 g | COC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C8H7NO4
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | ethyl (E)-3-(4-methoxy-3-nitrophenyl)acrylate | COC1=C(C=C(C=C1)/C=C/C(=O)OCC)[N+](=O)[O-] | C12H13NO5
